US04444768
117.2 g (0.27 mol) of 7-methoxy-1-(p-chlorophenyl)-3,4-dihydro-pyrimido[1,6-a]indole-5-acetic acid ethyl ester hydrochloride are introduced, while stirring, into a solution of 550 g of potassium hydroxide in 200 ml of water and 1500 ml of methanol. The mixture is stirred for 10 hours at room temperature, the methanol is distilled off in vacuo, the residue is dissolved in 1500 ml of ice-water, and 700 ml of concentrated hydrochloric acid are added to the solution while cooling with ice. The separated hydrochloride is filtered with suction and recrystallised from 2300 ml of 50% ethanol to yield 7-methoxy-1-(p-chlorophenyl)-3,4-dihydro-pyrimido[1,6-a]indole-5-acetic acid hydrochloride in the form of yellowish crystals having a melting point of 225°-228° (with decomposition).

reactant | 7-methoxy-1-(p-chlorophenyl)-3,4-dihydro-pyrimido[1,6-a]indole-5-acetic acid ethyl ester hydrochloride | 0.27 mol, 117.2 g | Cl.C(C)OC(CC1=C2N(C3=CC=C(C=C13)OC)C(=NCC2)C2=CC=C(C=C2)Cl)=O
reactant | potassium hydroxide | 550 g | [OH-].[K+]
solvent | water | 200 ml | O | H2O
solvent | methanol | 1500 ml | CO | CH4O
product | 7-methoxy-1-(p-chlorophenyl)-3,4-dihydro-pyrimido[1,6-a]indole-5-acetic acid hydrochloride | Cl.COC=1C=C2C(=C3N(C2=CC1)C(=NCC3)C3=CC=C(C=C3)Cl)CC(=O)O | InChI=1S/C20H17ClN2O3.ClH/c1-26-14-6-7-17-15(10-14)16(11-19(24)25)18-8-9-22-20(23(17)18)12-2-4-13(21)5-3-12;/h2-7,10H,8-9,11H2,1H3,(H,24,25);1H
